US06180622B2
b) (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[2(Z)-(imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid
Allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[2 (Z)-(imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (80 mg) is dissolved in 1 ml of dichloromethane and 1 ml of DMF. N-Methylaniline (0.060 ml) and 40 mg of tetrakis(triphenylphosphine)palladium(0) are added thereto, and the mixture is stirred in an argon atmosphere at room temperature for 30 min. The reaction mixture is concentrated under reduced pressure. Ethyl acetate is added to the concentrate, and the resultant precipitate is collected by filtration and then purified by column chromatography on Cosmosil 40C18-PREP and Amberlyst A-26 (Cl− form) to give 11.9 mg of the title compound.

reactant | Allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[2 (Z)-(imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 80 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1\C=C/C=1N2C(SC1)=CN=C2)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C28H32N4O6S2
reactant | N-Methylaniline | 0.060 ml | CNC1=CC=CC=C1 | C7H9N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[2(Z)-(imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid | 11.9 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN[C@@H](C2)\C=C/C=2N3C(SC2)=CN=C3)C(=O)O)C1=O | C21H24N4O4S2
